US05162334
B. 17-Ethyl-1,14-dihydroxy-12-[2'-(3"-(trans-2-butenyloxy)-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (115 mg in 3 ml 33% methylene chloride in cyclohexane) trans-2-butenyl trichloroacetimidate (48 μl neat) was added and the reagents allowed to mix for 5 minutes. Trifluoromethanesulfonic acid (2 μl neat) was added slowly via syringe and the mixture stirred at room temperature. After 35 minutes the reaction was quenchedby the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×8 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by preparative TLC on silica gel (ethyl acetate:hexane (1:1)+1% methanol) gave the title compounds (14 mg 4"-ether; 12 mg 3"-ether).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 3 ml, 115 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)O)=O | C42H67NO12
reactant | trans-2-butenyl trichloroacetimidate | 48 μl | ClC(C(OC\C=C\C)=N)(Cl)Cl | C6H8Cl3NO
reactant | Trifluoromethanesulfonic acid | 2 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(3"-(trans-2-butenyloxy)-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 14 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC\C=C\C)C)C)O)=O | C46H73NO12
